US06002008
4-Morpholin-4-yl-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
To a mixture of 0.69 g (1.87 mmol) of 4-[(3-Bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile and 0.98 ml (5.6 mmol) of Hunig's base in 50 ml of dry THF at 0° C., with stirring, was added a THF solution containing 0.86 g (5 mmol) of 4-bromocrotonyl chloride dropwise. The mixture was stirred for a additional 0.5 hour and then was added to a solution of 4.89 ml (56 mmol) morpholine in 50 ml THF at 0° C. dropwise. The solution was stirred an additional 0.5 hour and then the mixture was poured into diluted sodium bicarbonate solution. The organic layer was separated and dried over sodium sulfate. The residue was chromatographed to give 0.38 g of grey solid: mass spectrum (electrospray, m/e): M+H 521.9 and 523.8.

reactant | 4-[(3-Bromophenyl)amino]-7-methoxy-6-amino-3-quinolinecarbonitrile | 1.87 mmol, 0.69 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)N)OC)C#N | C17H13BrN4O
reactant | Hunig's base | 5.6 mmol, 0.98 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromocrotonyl chloride | 5 mmol, 0.86 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | morpholine | 56 mmol, 4.89 ml | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-Morpholin-4-yl-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 0.38 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCOCC1)=O)OC)C#N | C25H24BrN5O3
